US04071528
2-Nitro-4-thiocyanatoaniline (17.55 g) was added portionwise to a stirred solution of potassium hydroxide (13.4 g) in ethanol (210 ml), keeping the temperature below 20° C. After 5 minutes, ethyl iodide (14.4 g) was added during five minutes. The stirring was continued for a further hour and the mixture was allowed to stand overnight. The mixture was then poured into water (1100 ml) and extracted with chloroform (3 × 300 ml). The chloroform layers were combined, washed with water (500 ml), dried over magnesium sulphate, and evaporated to give 1-amino-4-ethylthio-2-nitrobenzene (17.0 g), in the form of a red oil.

reactant | 2-Nitro-4-thiocyanatoaniline | 17.55 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)SC#N | C7H5N3O2S
reactant | potassium hydroxide | 13.4 g | [OH-].[K+]
reactant | ethyl iodide | 14.4 g | C(C)I | C2H5I
reactant | water | 1100 ml | O | H2O
solvent | ethanol | 210 ml | C(C)O | C2H6O
product | 1-amino-4-ethylthio-2-nitrobenzene | 17.0 g | NC1=C(C=C(C=C1)SCC)[N+](=O)[O-] | C8H10N2O2S
